US09351962B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-((2-chlorophenyl)((R)-3-hydroxypyrrolidin-1-yl)methyl)thiazol-2-yl)-cyclopropanecarboxamide hydrochloride
A solution of HCl in ether (0.1556 mL, 0.3112 mmol, 1M) was slowly added to a stirred solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((2-chlorophenyl)((R)-3-hydroxypyrrolidin-1-yl)methyl)thiazol-2-yl)-cyclopropanecarboxamide (0.1550 g, 0.311.2 mmol) in 100 mL of anhydrous dichloromethane. The solution was evaporated to dryness to give the pure product (0.1654 g, 0.3095, 99.45%). ESI-MS m/z calc, 497.1, found; 498.1 (M+1)+; Retention time 5.74 minutes.

reactant | HCl | Cl | ClH
reactant | ether | 0.3112 mmol, 1M, 0.1556 mL | CCOCC | C4H10O
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((2-chlorophenyl)((R)-3-hydroxypyrrolidin-1-yl)methyl)thiazol-2-yl)-cyclopropanecarboxamide | 0.1550 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2SC(=CN2)C(N2C[C@@H](CC2)O)C2=C(C=CC=C2)Cl | C25H24ClN3O4S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-((2-chlorophenyl)((R)-3-hydroxypyrrolidin-1-yl)methyl)thiazol-2-yl)-cyclopropanecarboxamide hydrochloride | Cl.O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2SC(=CN2)C(N2C[C@@H](CC2)O)C2=C(C=CC=C2)Cl | InChI=1S/C25H24ClN3O4S.ClH/c26-18-4-2-1-3-17(18)22(29-10-7-16(30)13-29)21-12-27-24(34-21)28-23(31)25(8-9-25)15-5-6-19-20(11-15)33-14-32-19;/h1-6,11-12,16,22,30H,7-10,13-14H2,(H,27,28,31);1H/t16-,22?;/m1./s1
